US05380899
In a 500 ml four-necked flask equipped with a reflux condenser and a thermometer were charged 181 g of lauronitrile and 2 g of titanium tetraisopropoxide. Further, 1 g of water was added with stirring and the mixture was heated up to about 120° C. with stirring for 10 minutes. Thereafter, while maintaining the temperature at about 120° C., the mixture was heated for 30 minutes under a reduced pressure to remove isopropanol formed in situ and unreacted water therefrom. After heating the mixture up to 200°-210° C., 74 g of 1,2-diaminopropane were added dropwise for 120 hours with stirring while maintaining the temperature at 200° C. or above. After the addition of the diaminopropane had been completed, the reaction mixture was heated at 210°-220° C. for 4 hours for the completion of the reaction. The resulting mixture was then subjected to vacuum distillation at 1.0 mmHg and at 160°-165° C. to obtain 219 g of 2-undecyl-4-methyl-2-imidazoline with a yield of 92%.

reactant | lauronitrile | 181 g | C(CCCCCCCCCCC)#N | C12H23N
reactant | 1,2-diaminopropane | 74 g | NCC(C)N | C3H10N2
reactant | diaminopropane | NC(C)(C)N | C3H10N2
catalyst | titanium tetraisopropoxide | 2 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
catalyst | water | 1 g | O | H2O
product | 2-undecyl-4-methyl-2-imidazoline | 219 g, yield of 92% | C(CCCCCCCCCC)C=1NCC(N1)C | C15H30N2
